USH0001401
Step B: Preparation of 5-(4-(6-Chloro-2-benzothiazolyloxy)phenyl)-5-methyl-3-(phenylamino)-2,4-oxazolidinedione
To a solution of 2-(4-(6-chloro-2-benzothiazolyloxy)phenyl)lactate (1.56 g, 4.1 mmol(in CH2Cl2 (20 mL) was added 1,1'-carbonyldiimidazole (0.86 g, 5.3 mmol) and the resulting mixture was heated at reflux overnight. The solution was diluted with CH2Cl2 (20 mL) and then washed with H2O (two-times with 20 mL) and brine (20 mL). The organic phase was dried (MgSO4) and concentrated under vacuum. The residue was dissolved in CH2Cl2 (20 mL) and PhNHNH2 (0.77 g, 7.8 mmol) and acetic acid (0.45 mL, 7.8 mmol) were added and the resulting mixture was stirred at room temperature until thin layer chromatography indicated no imidazolide remained, approximately 36 h. The mixture was diluted with CH2Cl2 (20 mL) and washed with 1N aqueous HCl (10 mL) and H2O (10 mL). The organic phase was dried (MgSO4) and concentrated under vacuum to yield a red solid, 1.92 g, which was subjected to purification by column chromatography (140 g SiO2 eluting with 3:2:5 diethyl ether/CH2Cl2 /hexanes increasing to a ratio of 4:3:3 diethyl ether/CH2Cl2 /hexanes thereby affording the product of Step B as a light yellow powder, 0.37 g; (19%); m.p. 207°-209° C.; IR (mineral oil): 1820, 1755, 1594, 1245 cm-1 ; 1H NMR (CDCl3); δ7.7 (m,3H), 7.65 (d,1H), 7.5 (d,2H), 7.4 (d,1H), 7.3 (m,2H), 7.0 (t,1H), 6.8 (d,2H), 6.1 (s,1H), 2.0 (s,3H).

reactant | 2-(4-(6-chloro-2-benzothiazolyloxy)phenyl)lactate | ClC1=CC2=C(N=C(S2)OC2=CC=C(C=C2)C(C(=O)[O-])(O)C)C=C1
reactant | 1,1'-carbonyldiimidazole | 5.3 mmol, 0.86 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | PhNHNH2 | 7.8 mmol, 0.77 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic acid | 7.8 mmol, 0.45 mL | C(C)(=O)O | C2H4O2
reactant | imidazolide | [N-]1C=NC=C1
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-(6-Chloro-2-benzothiazolyloxy)phenyl)-5-methyl-3-(phenylamino)-2,4-oxazolidinedione | ClC1=CC2=C(N=C(S2)OC2=CC=C(C=C2)C2(C(N(C(O2)=O)NC2=CC=CC=C2)=O)C)C=C1 | C23H16ClN3O4S
